US07307084B2
5. 2,3 Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid (2-Hydroxy-ethyl)-amide
To a suspension of 0.3 g (0.93 mmol) 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid in dichloromethane (9 ml) were added 0.45 g (1.4 mmol) O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate (TBTU) and the suspension was stirred for 64 h at room temperature. 284 μl (4.7 mmol) Ethanolamine were added and the mixture was stirred for 24 h at room temperature. The reaction was poured into water and the precipitate filtered off. The residue was purified by chromatography on silica gel (dichloromethane/methanol=15:1) to afford 53 mg (17%) of the title compound as a yellow solid. m.p. 228°-229° C.

reactant | 2,3-dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic acid | 0.93 mmol, 0.3 g | CC1=NC2=C(N1C)C=C(C=1CCC(OC12)C1=CC=CC=C1)C(=O)O | C19H18N2O3
reactant | O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 1.4 mmol, 0.45 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Ethanolamine | 4.7 mmol, 284 μl | C(O)CN | C2H7NO
reactant | water | O | H2O
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 2,3 Dimethyl-8-phenyl-3,6,7,8-tetrahydro-chromeno[7,8-d]imidazole-5-carboxylic Acid (2-Hydroxy-ethyl)-amide | 53 mg, 17% | OCCNC(=O)C=1C=2CCC(OC2C2=C(N(C(=N2)C)C)C1)C1=CC=CC=C1 | C21H23N3O3
